US04863920
4.07 g (15 mmol) of 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was suspended in 30 ml of tetrahydrofuran and treated dropwise within 35 minutes at a maximum of -5° with 20 ml (30 mmol) of 1.6M butyllithium in hexane. After stirring in an ice-bath for 1.5 hours the mixture was cooled to -74° and there are added thereto 5 ml of hexamethylphosphoric acid triamide and, after 10 minutes, 3.30 g (30 mmol) of dicyclopropyl ketone. The mixture was left to come to room temperature during 6 hours and was stirred over the weekend. The reaction mixture was then poured into 200 ml of water, acidified to pH 7 with 4N hydrochloric acid and extracted four times with ethyl acetate. The combined organic extracts were washed twice with water, dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel while eluting with methylene chloride/methanol (19:1) and subsequent recrystallization from ethyl acetate there was obtained 7-chloro-3-(3,3-dicyclopropyl-3-hydroxy-1-propynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 179°-181°.

reactant | 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 15 mmol, 4.07 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C)C)=O | C14H10ClN3O
reactant | butyllithium | 30 mmol, 1.6M, 20 ml | C(CCC)[Li]
reactant | dicyclopropyl ketone | 30 mmol, 3.30 g | C1(CC1)C(=O)C1CC1 | C7H10O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 200 ml | O | H2O
solvent | hexamethylphosphoric acid triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-chloro-3-(3,3-dicyclopropyl-3-hydroxy-1-propynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(O)(C1CC1)C1CC1)C)=O | C21H20ClN3O2
